** sch_path: /foss/designs/unicasss-tools/SG13G2_2.4GHz_LC_VCO_FPLL/xschem/charge-pump/tb_CP_LF_PEX.sch
**.subckt tb_CP_LF_PEX
V1 VDD GND 1.2
V2 DN GND PULSE(0 1.2 3.1u 1n 1n 49n 100n 29)
V3 UP GND PULSE(1.2 0 20n 1n 1n 49n 100n 29)
VBGR VBGR GND 0.6
x1 UP VDD VCP VBGR GND DN CHARGE_PUMP_PEX
x2 CTRL VCP GND LOOP_FILTER_PEX
**** begin user architecture code



.include tb_CP.save
.param temp=27
.option method=gear rshunt=1.0e12
.control
save all
op
write tb_CP_LF.raw
.endc



.include /foss/designs/unicasss-tools/SG13G2_2.4GHz_LC_VCO_FPLL/pex/CHARGE_PUMP_V1__CHARGE_PUMP/magic_RC/CHARGE_PUMP.pex.spice
.include /foss/designs/unicasss-tools/SG13G2_2.4GHz_LC_VCO_FPLL/pex/LOOP_FILTER__LOOP_FILTER/magic_RC/LOOP_FILTER.pex.spice
.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ




.param temp = 27
.options method=gear rshunt=1.0e12

.control

* Save required signals
save v(UP) v(DN) v(VCP) v(CTRL)

* Long transient simulation
tran 1n 6u

* Plot transient waveform
plot v(UP) v(DN) v(VCP) v(CTRL)
plot v(CTRL)

.endc


**** end user architecture code
**.ends
.GLOBAL VDD
.GLOBAL GND
.end
